US07851642B2
c) (3S,5S)-5-{(1S,3S)-1-Amino-3-[4-fluoro-3-(3-methoxy-propoxy)-benzyl]-4-methyl-pentyl}-3-isopropyl-dihydro-furan-2-one
A solution of isobutyric acid (S)-2-[(S)-2-azido-2-((2S,4S)-4-isopropyl-5-oxo-tetrahydro-furan-2-yl)-ethyl]-1-[4-fluoro-3-(3-methoxy-propoxy)-phenyl]-3-methyl-butyl ester (1.45 g, 2.7 mmol, 1 equiv.), Pd/C (10%, 2.9 g) and ethanolamine (0.17 mL, 2.7 mmol, 1 equiv.) in ethanol (135 mL) were shaken under H2 (1 atmosphere) for 24 hours. The reaction mixture is filtered, before the solvent is evaporated to afford the product as a light grey gum. MS (LC-MS): 424 [M+H]+

reactant | isobutyric acid (S)-2-[(S)-2-azido-2-((2S,4S)-4-isopropyl-5-oxo-tetrahydro-furan-2-yl)-ethyl]-1-[4-fluoro-3-(3-methoxy-propoxy)-phenyl]-3-methyl-butyl ester | 2.7 mmol, 1.45 g, 1 equiv. | N(=[N+]=[N-])[C@@H](CC([C@@H](C1=CC(=C(C=C1)F)OCCCOC)OC(C(C)C)=O)C(C)C)[C@H]1OC([C@@H](C1)C(C)C)=O | C28H42FN3O6
reactant | ethanolamine | 2.7 mmol, 0.17 mL, 1 equiv. | C(O)CN | C2H7NO
solvent | ethanol | 135 mL | C(C)O | C2H6O
catalyst | Pd/C | 2.9 g | [Pd] | Pd
product | (3S,5S)-5-{(1S,3S)-1-Amino-3-[4-fluoro-3-(3-methoxy-propoxy)-benzyl]-4-methyl-pentyl}-3-isopropyl-dihydro-furan-2-one | N[C@@H](C[C@@H](C(C)C)CC1=CC(=C(C=C1)F)OCCCOC)[C@@H]1C[C@H](C(O1)=O)C(C)C | C24H38FNO4
